US07393367B2
Step 1: Preparation of 3-ethoxy-4-(2-propenyloxy)benzaldehyde
Ethyl vanillin (21.6 g, 0.130 mol) and allyl bromide (19.9 g, 0.160 mol) were heated under reflux together with potassium carbonate (27.3 g, 0.200 mol) in 150 ml acetone (abs.) for 8 hours. After cooling, the solid was filtered off and washed with acetone. A yellow oil was obtained after a thorough concentration of the organic phases.

reactant | Ethyl vanillin | 0.130 mol, 21.6 g | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
reactant | allyl bromide | 0.160 mol, 19.9 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.200 mol, 27.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-ethoxy-4-(2-propenyloxy)benzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC=C | C12H14O3
